US07141575B2
2,6-Difluoro-4-hydroxybenzyl alcohol
A mixture of 3,5-difluorophenol (25 g, 0.19 mol) and KOH (85%, 12.7 g, 0.19 mol) was treated dropwise with water (50 mL), stirred at 60° C. for 1 h, treated dropwise with formaldehyde solution (37%, 15.6 mL, 0.19 mol) and water (50 mL) and stirred overnight at 40° C. The mixture was cooled, acidified with 6-M HCl, filtered and the resulting solid washed with water and dried to give the title compound (15 g, 49%) as a white solid: NMR δH (400 MHz, DMSO) 10.28 (1H, s), 6.43 (2H, m), 4.99 (1H, t, J 5.6 Hz) and 4.37 (2H, d, J 5.6 Hz).

reactant | 3,5-difluorophenol | 0.19 mol, 25 g | FC=1C=C(C=C(C1)F)O | C6H4F2O
reactant | KOH | 0.19 mol, 12.7 g | [OH-].[K+]
reactant | formaldehyde | 0.19 mol, 15.6 mL | C=O | CH2O
reactant | HCl | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | 2,6-Difluoro-4-hydroxybenzyl alcohol | 15 g, 49% | FC1=C(CO)C(=CC(=C1)O)F | C7H6F2O2
